US04640916
In 10 ml of dimethylformamide were dissolved 1.6 g of 2-(3-chloropropyl)-2H-1,4-benzothiazin-3(4H)-one and 2.55 g of 1-(2-methoxyphenyl)piperazine. The solution was stirred at 100° C. for 1.5 hour. The reaction mixture was poured into ice-water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over MgSO4, then concentrated under reduced pressure. The concentrate was subjected to a column chromatography on silica-gel (150 g). From the eluate with hexane-acetone (2:1, v/v) was obtained 0.7 g of 2-[3-[4-(2-methoxyphenyl)-1-piperazinyl]propyl]-2H-1,4-benzothiazin-3(4H)-one as an oily substance. The 3/2 oxalate of this product was obtained as crystals, which were recrystallized from methanol and dichloromethane to give colorless prisms. The yield was 470 mg (13.3%), m.p. 202°-204° C.

reactant | 2-(3-chloropropyl)-2H-1,4-benzothiazin-3(4H)-one | 1.6 g | ClCCCC1SC2=C(NC1=O)C=CC=C2 | C11H12ClNOS
reactant | 1-(2-methoxyphenyl)piperazine | 2.55 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[3-[4-(2-methoxyphenyl)-1-piperazinyl]propyl]-2H-1,4-benzothiazin-3(4H)-one | 0.7 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCC1SC2=C(NC1=O)C=CC=C2 | C22H27N3O2S
